US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.18 g, 5.32 mmol), 4-(1-imidazolyl)benzaldehyde (1.37 g) and xylenes (8 ml) was warmed to 130° C. for 30 minutes, then to 160° C. for three days. The reaction mixture was cooled, and the product was collected by filtration and washed with Et2O to afford 1.88 g of 1-cyclopentyl-3-ethyl-6-[4-(1-imidazolyl)phenyl]pyrazolo [3,4-d]pyrimidin-4-one as the 6,7-saturated derivative. This derivative was mixed with ethanol (300 ml) and 30% H2O2 (3.0 ml) and refluxed overnight. Additional 30% H2O2 (3 ml) was added and the mixture was refluxed for 8 hours. An additional 10 ml of 30% H2 O2 was added and the mixture was refluxed overnight. Starting material was still present so an additional 10 ml of 30% H2O2 was added and the mixture was refluxed for 4 hours and then additional 30% H2O2 (10 ml) was added and the mixture was stirred for 1 hour, then was allowed to stand at room temperature overnight. The reaction mixture was stripped to a yellow liquid and purified by column chromatography on silica gel eluting with ethyl acetate (100%), then 5% methanol/ethyl acetate to afford 0.4 g of 1-cyclopentyl-3-ethyl-6-[4-(1-imidazolyl)phenyl]-pyrazolo-[3,4-d] pyrimidin-4-one 1/2 hydrate, m.p.>300° C.

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 5.32 mmol, 1.18 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 4-(1-imidazolyl)benzaldehyde | 1.37 g | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | 1-cyclopentyl-3-ethyl-6-[4-(1-imidazolyl)phenyl]pyrazolo [3,4-d]pyrimidin-4-one | 1.88 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=C(C=C2)N2C=NC=C2)CC | C21H22N6O
